US04456599
To a stirred solution of 6-hydroxy-2-benzothiazolesulfonamide (2.3 g, 0.01 mole) and 4-dimethylaminopyridine (200 mg) in pyridine (20 ml) was added chlorodiethylphosphate (1.45 ml, 0.01 mole). After stirring for 4 hours at 25° C. additional chlorodiethylphosphate (1.5 ml) was added and the reaction mixture was stirred at 25° C. for 18 hours then poured into ice water and excess hydrochloric acid to give 1.15 g of diethyl(2-sulfamoyl-6-benzothiazolyl)phosphate m.p. 142°-144° C. after recrystallization from ethylene chloride.

reactant | 6-hydroxy-2-benzothiazolesulfonamide | 0.01 mole, 2.3 g | OC1=CC2=C(N=C(S2)S(=O)(=O)N)C=C1 | C7H6N2O3S2
reactant | chlorodiethylphosphate | 0.01 mole, 1.45 ml | CCOP(=O)(OCC)Cl | C4H10ClO3P
reactant | chlorodiethylphosphate | 1.5 ml | CCOP(=O)(OCC)Cl | C4H10ClO3P
reactant | hydrochloric acid | Cl | ClH
catalyst | 4-dimethylaminopyridine | 200 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | diethyl(2-sulfamoyl-6-benzothiazolyl)phosphate | 1.15 g | CCOP(=O)(OCC)OC1=CC2=C(C=C1)N=C(S2)S(=O)(=O)N | C11H15N2O6PS2
